US07750003B2
1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]-3-(1,2-oxazol-3-yl)urea
1-[4-[4-(Hydroxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-(1,2-oxazol-3-yl)urea (300 mg) was partially dissolved in DCM (10 mL) and triethylamine (0.153 mL) and the solution was cooled to 0° C. Methane sulfonyl chloride was added (0.086 mL) and the reaction was stirred for 45 mins at RT. The reaction was then washed with water (2 mL) and dried over magnesium sulphate. The solution was vacuumed to dryness to give the desired material as a yellow solid.

reactant | 1-[4-[4-(Hydroxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-(1,2-oxazol-3-yl)urea | 300 mg | OCC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(=O)NC1=NOC=C1 | C20H22N6O4
reactant | triethylamine | 0.153 mL | C(C)N(CC)CC | C6H15N
reactant | Methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]-3-(1,2-oxazol-3-yl)urea | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)COS(=O)(=O)C)C1=CC=C(C=C1)NC(=O)NC1=NOC=C1 | C21H24N6O6S
